US08623887B2
20.6 g of the benzyl 4-nitrobenzoate are dissolved in 350 mL dioxane and this solution is combined with 6.9 g (49.9 mmol, 0.61 eq) Raney nickel. The mixture is hydrogenated at 5 bar H2 pressure for 16 h with stirring. The catalyst is filtered off and all the volatile constituents are eliminated in vacuo. 17 g benzyl 4-aminobenzoate are obtained.

reactant | benzyl 4-nitrobenzoate | 20.6 g | [N+](=O)([O-])C1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H11NO4
solvent | dioxane | 350 mL | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 49.9 mmol, 6.9 g, 0.61 eq | [Ni] | Ni
product | benzyl 4-aminobenzoate | 17 g | NC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H13NO2
